US06140342
6,7-Dimethoxy-2-methyl-4-oxo-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester
4,6,7-Trimethoxyquinoline (1.0 g, 4.6 mmol) was dissolved in anhydrous tetrahydrofuran (15 mL). The mixture was cooled to -78° C., and methyl magnesium chloride (2.3 mL of a 3.0M solution in tetrahydrofuran, 6.9 mmol) was added. The mixture was stirred at -78° C. for 1 h, then benzyl chloroformate (1.0 mL, 6.9 mmol) was added. The reaction was warmed to room temperature over 30 min, then 8 mL of a 1N aqueous HCl solution was added. After 30 minutes, the tetrahydrofuran was removed in vacuo, and the remaining aqueous phase was extracted with ethyl acetate (3×30 mL). The organic phases were combined and washed with water (15 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to give 1.5 g of crude product. Purification by silica gel chromatography using 0-50% ethyl acetate/hexanes as eluent afforded 0.91 g of the desired product (57%). 1H NMR (CDCl3) δ 1.25 (d, 3H), 2.5 (d, 1H), 3.0 (dd, 1H), 3.7 (s, 3H), 3.9 (s, 3H), 5.1-5.3 (m, 5.2 (d, 1H), 5.4 (d, 1H), 7.3-7.5 (m, 7H).

reactant | 4,6,7-Trimethoxyquinoline | 4.6 mmol, 1.0 g | COC1=CC=NC2=CC(=C(C=C12)OC)OC | C12H13NO3
reactant | methyl magnesium chloride | C[Mg]Cl
reactant | benzyl chloroformate | 6.9 mmol, 1.0 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 6,7-Dimethoxy-2-methyl-4-oxo-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester | 0.91 g, 57% | C(C1=CC=CC=C1)OC(=O)N1C(CC(C2=CC(=C(C=C12)OC)OC)=O)C | C20H21NO5
